US05206240
6,7-Diamino-3,4-dihydro-1'-(2-phenylethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one
In the manner of Example 462, 7-amino-3,4-dihydro-6-nitro-1'-(2-phenylethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one (1.22 g, 3.2 mmol) was reduced to give, after chromatography, the pyranone as a yellow foam (790 mg, 70%).

reactant | 7-amino-3,4-dihydro-6-nitro-1'-(2-phenylethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 3.2 mmol, 1.22 g | NC1=CC2=C(C(CC3(CCN(CC3)CCC3=CC=CC=C3)O2)=O)C=C1[N+](=O)[O-] | C21H23N3O4
reactant | pyranone | 790 mg | O1C(C=CC=C1)=O | C5H4O2
product | 6,7-Diamino-3,4-dihydro-1'-(2-phenylethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | NC=1C(=CC2=C(C(CC3(CCN(CC3)CCC3=CC=CC=C3)O2)=O)C1)N | C21H25N3O2
